US05574044
A mixture of 69 g of 4-chloro-3-nitro-toluene, 50 g of ethyl 4-amino-1-piperidinecarboxylate, 24 g of sodium carbonate, 0.1 g of sodium iodide and 120 mL of cyclohexanol was heated to 150° C. for 72 h. After cooling the cyclohexanol was distilled off under reduced pressure and the residue partitioned between 1 L of ethyl acetate and 1 L of water. The organic extract was dried over MgSO4 and concentrated under reduced pressure. Chromatography over silica gel, eluting with 20% ethyl acetate in cyclohexane gave 38.5 g (42.3%) of ethyl 4-(4-methyl-2-nitroanilino)-1-piperidinecarboxylate as an orange crystalline solid. 1H NMR (400 MHz, CDCl3) 8.0 (s, 1H), 7.27 (t, J=9 Hz, 1H), 6.8 (d, J=9 Hz, 1H), 4.15 (q, J=7 Hz, 2H), 4.05 (br m, 2H), 3.67 (br m, 1H), 3.10 (br t, J=11 Hz, 2H), 2.27 (s, 3H), 2.06 (br d, J=11 Hz, 2H), 1.6 (m, 2H), 1.27 (t, J=7 Hz, 4H).

reactant | 4-chloro-3-nitro-toluene | 69 g | ClC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6ClNO2
reactant | ethyl 4-amino-1-piperidinecarboxylate | 50 g | NC1CCN(CC1)C(=O)OCC | C8H16N2O2
reactant | sodium carbonate | 24 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | sodium iodide | 0.1 g | [I-].[Na+]
solvent | cyclohexanol | 120 mL | C1(CCCCC1)O | C6H12O
product | ethyl 4-(4-methyl-2-nitroanilino)-1-piperidinecarboxylate | 38.5 g, 42.3% | CC1=CC(=C(NC2CCN(CC2)C(=O)OCC)C=C1)[N+](=O)[O-] | C15H21N3O4
